US08476286B2
Synthesis of 2-fluoro-4-(4-isopropyl-phenyl)-6,7-dimethoxy-quinazoline
A solution of 80 mg (0.23 mmol) 2-chloro-4-(4-isopropyl-phenyl)-6,7-dimethoxy-quinazoline and 100 mg (1.70 mmol) KF in 1 ml dimethylacetamide is stirred at 90° C. for 5 days. After extraction (ethyl acetate/brine) the organic layer is dried and evaporated. Flash-chromatography (hexane/ethyl acetate) yields 25 mg (33%) of the product as yellow oil.

reactant | 2-chloro-4-(4-isopropyl-phenyl)-6,7-dimethoxy-quinazoline | 0.23 mmol, 80 mg | ClC1=NC2=CC(=C(C=C2C(=N1)C1=CC=C(C=C1)C(C)C)OC)OC | C19H19ClN2O2
reactant | KF | 1.70 mmol, 100 mg | [F-].[K+]
solvent | dimethylacetamide | 1 ml | CC(=O)N(C)C | C4H9NO
product | 2-fluoro-4-(4-isopropyl-phenyl)-6,7-dimethoxy-quinazoline | 25 mg, 33% | FC1=NC2=CC(=C(C=C2C(=N1)C1=CC=C(C=C1)C(C)C)OC)OC | C19H19FN2O2
